US04977267
17.4 g of sodium borohydride was suspended in 1.6 liters of tetrahydrofuran, and the suspension was stirred by a mechanical stirrer. The suspension was cooled with ice-water, and 62.2 g of 2-bromo-4-pyridinecarboxylic acid was added little by little. The mixture was heated to room temperature, and stirred until evolution of hydrogen ceased. A solution of 75.8 ml of boron trifluoride etherate in 500 ml of tetrahydrofuran was added dropwise at room temperature for 3 hours. After the addition, the mixture was stirred for 20 hours. The reaction solution was cooled with ice-water, and acidified to a pH of 1 to 2 by adding 1.5N hydrochloric acid. Tetrahydrofuran was evaporated under reduced pressure. A 4N aqueous solution of sodium hydroxide was added to adjust the pH of the mixture to 10 to 11. It was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous solution of sodium chloride. The aqueous layer was further extracted with ethyl acetate twice. The organic layers were combined, and dried over anhydrous sodium sulfate. The dried product was concentrated under reduced pressure to give 51.3 g of 2-bromo-4-pyridinemethanol in a yield of 88%.

reactant | sodium borohydride | 17.4 g | [BH4-].[Na+]
reactant | 2-bromo-4-pyridinecarboxylic acid | 62.2 g | BrC1=NC=CC(=C1)C(=O)O | C6H4BrNO2
reactant | hydrogen | [H][H] | H2
reactant | boron trifluoride etherate | 75.8 ml | B(F)(F)F.CCOCC
reactant | hydrochloric acid | 1.5N | Cl | ClH
solvent | tetrahydrofuran | 1.6 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-bromo-4-pyridinemethanol | 51.3 g, yield of 88% | BrC1=NC=CC(=C1)CO | C6H6BrNO
